### ISSUE TITLE
[`SimpleGraph/Trails`] existence of an Eulerian walk

### ISSUE THREAD

**Issue by SnirBroshi** [SnirBroshi/mathlib4#45]
The converse to [`IsEulerian.even_degree_iff`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Combinatorics/SimpleGraph/Trails.html#SimpleGraph.Walk.IsEulerian.even_degree_iff):
```lean
-- #41631
theorem Preconnected.exists_isEulerian_of_even_degree [DecidableEq V] [Fintype V]
    [DecidableRel G.Adj] (hcon : G.Preconnected) (h : ∀ v, Even (G.degree v)) :
    ∀ v, ∃ p : G.Walk v v, p.IsEulerian := by
  -- Take a longest trail from `v` to `v`. It must be Eulerian.
  sorry

theorem Preconnected.exists_isEulerian_of_even_degree [DecidableEq V] [Fintype V] [DecidableRel G.Adj] {u v : V}
    (hcon : G.Preconnected) (h : ∀ w, Even (G.degree w) ↔ u ≠ v → w ≠ u ∧ w ≠ v) :
    ∃ p : G.Walk u v, p.IsEulerian := by
  -- TODO: add the edge `s(u, v)`, get an Eulerian walk from `IsEulerian.exists_of_card_odd_degree_eq_zero`,
  -- since it's Eulerian it has `s(u, v) ∈ p.edges`. Take the rest of the walk, and use `p.toDeleteEdge`
  sorry

theorem Preconnected.exists_isEulerian_of_card_odd_degree_eq_two [Fintype V] [DecidableRel G.Adj] {u v : V}
    (hcon : G.Preconnected) (h : { w : V | Odd (G.degree w) }.ncard = 2) :
    ∃ (u v : V) (p : G.Walk u v), p.IsEulerian := by
  have := Set.ncard_eq_two.mp h
  sorry
```

Add this to the `## Main definitions` in the module docstring of `Mathlib/Combinatorics/SimpleGraph/Trails.lean`, and delete the TODO.
